US04689068
10.4 g (0.05 mole) of phosphorus pentachloride and 11.6 g (0.05 mole) of N,N-dimethyl-N'-(3,4-dichlorophenyl)-urea in 74 ml of toluene are refluxed for 3 hours, and the volatile components are distilled off under 0.13 mbar to give 12.6 g of N,N-dimethyl-N'-(3,4-dichlorophenyl)-chloroformamidine in the form of an oil; nD25 : 1.6133.

reactant | phosphorus pentachloride | 0.05 mole, 10.4 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | N,N-dimethyl-N'-(3,4-dichlorophenyl)-urea | 0.05 mole, 11.6 g | CN(C(=O)NC1=CC(=C(C=C1)Cl)Cl)C | C9H10Cl2N2O
solvent | toluene | 74 ml | C1(=CC=CC=C1)C | C7H8
product | N,N-dimethyl-N'-(3,4-dichlorophenyl)-chloroformamidine | 12.6 g | CN(C(=NC1=CC(=C(C=C1)Cl)Cl)Cl)C | C9H9Cl3N2
